US04217348
3.6 g. of α,2-dioxo-3-oxazolidineacetyl chloride, from Example 1(a), dissolved in methylene chloride are added dropwise at 0° to a solution of 2.78 g. of p-nitrophenol and 2.52 g. dimethylaniline in methylene chloride. After thirty minutes, the mixture is shaken with water and dilute hydrochloric acid. The organic phase is dried, concentrated, and the precipitated product is recrystallized from toluene to yield white crystalline α,2-dioxo-3-oxazolidineacetic acid, 4-nitrophenyl ester; m.p. 159°.

reactant | α,2-dioxo-3-oxazolidineacetyl chloride | O=C(C(=O)Cl)N1C(OCC1)=O | C5H4ClNO4
reactant | p-nitrophenol | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | α,2-dioxo-3-oxazolidineacetic acid, 4-nitrophenyl ester | O=C(C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])N1C(OCC1)=O | C11H8N2O7
